US05158971
5-(Phenylthio)thiophene-2-aldehyde
To a solution of 2-phenylthiothiophene (3.87 g) in dry tetrahydrofuran (50 ml) at -30° C. under N2, was added dropwise, n-butyllithium (8.0 ml, 2.5M) and the solution left to stir at -30° C. for 2 hours. Dry dimethylformamide (2.32 ml) was then added and the solution allowed to stir at -30° C. for a further hour, allowed to warm to room temperature and stirred overnight. The reaction mixture was quenched with 2N HCl (50 ml), extracted with ether (2×50 ml), dried over MgSO4 and evaporated under reduced pressure to give an orange oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using 20% ether-hexane to give a pale yellow oil.

reactant | 2-phenylthiothiophene | 3.87 g | C1(=CC=CC=C1)SC=1SC=CC1 | C10H8S2
reactant | n-butyllithium | 2.5M, 8.0 ml | C(CCC)[Li]
reactant | dimethylformamide | 2.32 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(Phenylthio)thiophene-2-aldehyde | C1(=CC=CC=C1)SC1=CC=C(S1)C=O | C11H8OS2
